US05049669
A suspension of N-butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (1.2 g) and mercuric acetate (1 g) in acetic acid (15 cc) is stirred for 5 hours at a temperature in the region of 20° C. The black suspension obtained is diluted with ethyl ether (25 cc) and filtered. The solid is washed with ethyl ether (2×10 cc). The combined organic phases are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is taken up with ethyl acetate (25 cc) and distilled water (25 cc). The organic phase is separated, filtered, dried over magnesium sulphate, filtered again and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The very viscous residual oil (1.1 g) is taken up with a mixture (83:17 by volume) (12 cc) of ethyl acetate and methanol warmed to about 50° C. After 1 hour at a temperature in the region of 20° C., the solid formed is drained, washed with diethyl ether (2×10 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. N-butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]- 2-phenothiazinecarboxamide (0.4 g) is thereby obtained in the form o cream-coloured crystals, m.p. 218° C.

reactant | N-butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 1.2 g | C(CCC)NC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C24H31N3S2
reactant | acetic acid | 15 cc | C(C)(=O)O | C2H4O2
solvent | ethyl ether | 25 cc | C(C)OCC | C4H10O
product | N-butyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]- 2-phenothiazinecarboxamide | 0.4 g | C(CCC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C24H31N3OS
